US05506256
A) N-(tert-Butoxycarbonyl)-N-phenylglycine
N-Phenylglycine (5.00 g) was dissolved in 1,4-dioxane-water (2:1, 90 ml), and 1N sodium hydroxide (33.1 ml) and di-tert-butyldicarbonate (7.95 g) were added thereto under ice-cooling, followed by stirring at room temperature overnight. After concentrating the mixture, the residue was dissolved in 10% citric acid, and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography (eluate: chloroform-methanol-acetic acid) to give 8.30 g of the title compound.

reactant | N-Phenylglycine | 5.00 g | C1(=CC=CC=C1)NCC(=O)O | C8H9NO2
reactant | sodium hydroxide | 1N, 33.1 ml | [OH-].[Na+]
reactant | di-tert-butyldicarbonate | 7.95 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane water | 90 ml | O1CCOCC1.O
product | N-(tert-Butoxycarbonyl)-N-phenylglycine | 8.30 g | C(C)(C)(C)OC(=O)N(CC(=O)O)C1=CC=CC=C1 | C13H17NO4
